Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Short cervix
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o G1P0 at 24+2 weeks gestation presents to triage from the 
ATU with a cervical length of .7cm with beaking. Pt reports 
occasional BH contractions but no bleeding, no lof, and good 
fetal movements.

Pt has a hx of a LEEP and her cervical length at 18 wks ws 2cm 
but today 0.77cm. Her testing was otherwise reassuring with a 
vertex fetus, normal fluid and active movement.
 
Past Medical History:
PNC:
(1)Dating ___ ___ by LMP consistant w/7+5 wks u/s
(2)Labs:O pos/Ab neg
(3)3U/S:placenta anterior, no previa, FFS normal, CL 2.1cm
Issues
(1)short CL; hx LEEP
- started on vaginal progesterone at 21wks

PAST OBSTETRIC HISTORY
G1

PAST GYNECOLOGIC HISTORY
LMP ___
LEEP CIN II
uterine fibroids 

PAST MEDICAL HISTORY
asthma triggered by allergies
MVP last cardiology in ___ no antibiotic prophylaxis 

PAST PSYCHIATRIC HISTORY
anxiety

PAST SURGICAL HISTORY
appendenctomy
LEEP
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
GENERAL: NAD
VITALS: T 97.8 po, BP 131/79, HR 81, RR 18
ABDOMEN: gravid, soft, nontender
EXTREMITIES: no edema B 
TOCO: initally irregular ctx pt felt but no painful
SVE: ___
 
Pertinent Results:
___ WBC-9.8 RBC-3.88 Hgb-12.2 Hct-35.1 MCV-90 Plt-208
___ Neuts-78.8 ___ Monos-4.3 Eos-1.1 Baso-0.2
___ GLT-123
___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG

URINE CULTURE (Final ___: 
  LACTOBACILLUS SPECIES >100,000 ORGANISMS/ML

URINE CULTURE (Final ___: 
  MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT
  WITH SKIN AND/OR GENITAL CONTAMINATION.
 
Brief Hospital Course:
___ G1P0 admitted at 24+2 weeks gestation with short cervix.
.
Ms ___ initially had some irregular contractions on toco 
which resolved with hydration. Her cervix, however, was found to 
be 1cm dilated and 90% effaced. Fetal testing was reassuring. 
Due to her high risk for a preterm delivery, she was admitted 
for hospitalized bedrest, close observation, and betamethasone 
for fetal lung maturity. She was contined on the vaginal 
progesterone weekly. ___ was consulted and agreed with 
hospitalized bedrest until 28 weeks gestation. She started 
contracting irregularly at 25 weeks and she was started on 
Nifedipine for tocolysis. Her cervix was unchanged at that time. 
On toco, she had frequent periods of irritability with 
occasional contractions (typically ___ contractions/30min). At 
28 weeks gestation, her cervix was dilated to 2.5cm dilated and 
at 30 weeks gestation she was 3cm/100%. The progesterone was 
discontinued at that time. She remained hospitalized until 34 
weeks when her cervix stabilized at 3cm. She was discharged home 
at that time. The Nifedipine was discontinued. She will continue 
modified bedrest at home with close followup.
.
In regards to fetal well-being, her fetal testing was reassuring 
throughout this admission. She was monitored with daily NSTs, 
weekly, biophysical profiles, and growth scans every three 
weeks. She was betamethasone complete on ___. The NICU was 
consulted. On the day of discharge, ultrasound revealed a vertex 
fetus, BPP ___, AFI 16.8, and ___ 24998g(57%).
.
She had no complications during her hospitalization. She was 
followed by social services to help her cope with this lengthy 
hospitalization. Physical therapy was consulted to provide 
stretching/exercises while on prolonged bedrest. She had a 
normal GLT prior to administration of betamethasone. 
 
Medications on Admission:
Prenatal vitamins
 
Discharge Medications:
Prenatal vitamins
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 34 weeks gestation
advanced cervical dilation
 
Discharge Condition:
stable
 
Discharge Instructions:
continue bedrest at home. call your doctor with any leaking of 
fluid, vaginal bleeding, regular or painful contractions, or 
decreased fetal movement.
 
Followup Instructions:
___